US05597776
2-Methyl-7-(2-thienyl)-pyrido[2,3-d]pyrimidine
1 ml of 40% strength by weight aqueous potassium hydroxide solution was added to a suspension of 2.0 g (14.6 mmol) of 4-amino-5-formyl-2-methylpyrimidine and 1.93 g. (15.3 mmol) of 2-acetylthiophene in 25 ml of methanol. The reaction mixture was then stirred for 20 hours at 20°-25° C. after which the solvent was removed After the residue had been taken up in dichloromethane, the organic phase was washed with water, dried and evaporated down. Yield: 17%; mp.: 175°-180° C.

reactant | potassium hydroxide | [OH-].[K+]
reactant | 4-amino-5-formyl-2-methylpyrimidine | 14.6 mmol, 2.0 g | NC1=NC(=NC=C1C=O)C | C6H7N3O
reactant | 2-acetylthiophene | 15.3 mmol | C(C)(=O)C=1SC=CC1 | C6H6OS
solvent | methanol | 25 ml | CO | CH4O
product | 2-Methyl-7-(2-thienyl)-pyrido[2,3-d]pyrimidine | Yield: 17% | CC=1N=CC2=C(N1)N=C(C=C2)C=2SC=CC2 | C12H9N3S
